US08530491B2
c) 2,4-diamino-6-ethyl-5-(3-(1-indolyl)propoxy)pyrimidine monohydrochloride
2,4-diamino-6-ethyl-5-(3-(1-indolyl)propoxy)pyrimidine (0.1557 g, 0.5 mmol) was suspended in methanol (1 mL) and 1 equivalent of concentrated HCl was added. The titled compound was obtained after evaporation and trituration of the residue with acetonitrile as an off-white crystalline solid (0.1670 g, 96%). 1H NMR (DMSO-d6): 1.09 (3H, t, J=7.5 Hz), 2.26 (2H, m), 2.44 (2H, q, J=7.5 Hz), 3.71 (2H, t, J=6.4 Hz), 4.33 (2H, t, J=7.1 Hz), 6.45 (1H, d, J=2.8 Hz), 7.02 (1H, m), 7.14 (1H, m), 7.40 (2H, m), 7.50 (1H, d, J=8.1 Hz), 7.55 (1H, d, J=7.8 Hz), 7.82 (1H, s), 8.32 (1H, s), 12.33 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(1-indolyl)propoxy)pyrimidine | 0.5 mmol, 0.1557 g | NC1=NC(=C(C(=N1)N)OCCCN1C=CC2=CC=CC=C12)CC | C17H21N5O
reactant | HCl | 1 equivalent | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(1-indolyl)propoxy)pyrimidine monohydrochloride | Cl.NC1=NC(=C(C(=N1)N)OCCCN1C=CC2=CC=CC=C12)CC | InChI=1S/C17H21N5O.ClH/c1-2-13-15(16(18)21-17(19)20-13)23-11-5-9-22-10-8-12-6-3-4-7-14(12)22;/h3-4,6-8,10H,2,5,9,11H2,1H3,(H4,18,19,20,21);1H
